Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Versed / Percocet
 
Attending: ___.
 
Chief Complaint:
chest pain  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F h/o SVT s/p multiple ablations, h/o PE and DVTs, and 
obesity p/w chest pain. Over the past 6 months, the patient has 
noticed "pauses" in her heart rate and felt that she had to 
"reset" her heart with a chest thump. She saw Dr. ___ in ___ 
clinic recently complaining of heart pauses and she was ordered 
for a Holter monitor that revealed sinus rhythm with atrial and 
ventricular premature beats. This am after breakfast, she felt 
very lightheaded and felt that she might pass out. She put her 
head on the kitchen counter with improvement in symptoms, but 
hit the top of her head against an open cabinet upon rising. She 
then presented to an OSH ED where she began to experience 
substernal and L-sided chest pain radiating to  
She was seen at OSH ED where cardiac enzymes were negative and 
EKG showed no new ischemic changes. She was transferred to ___ 
for further evaluation.  
.  
In the ED, T 100.1, BP 105/60, HR 150, RR 20, O2 sat 98% RA. EKG 
revealed sinus tachycardia with < 0.___epressions in the 
anterolateral leads. A RIJ CVL was placed due to poor PIV 
access. She received a total of 6 mg IV morphine and 2 mg IV 
dilaudid, which provided some relief of chest pain. SL NTG did 
not provide relief. Pre-medicated with solumedrol 125 mg IV, 
benadryl 25 mg IV, and famotidine 20 mg IV for CTA chest given 
IV dye hypersensitivity. CTA chest negative for PE. She was 
admitted to medicine for pain control and ___.  
.  
Currently, the patient complains of ___ chest pain. She 
reportedly voices her concerns about being labeled as "drug 
seeking" although such a suggestion was not made by the 
examiner. The pt also complains of L arm numbness and 
heavniness, worse in her hand. States this has been ongoing for 
2 hrs. Was admitted to ___ for similar complaint in ___, w/u 
1-2 mm FLAIR hyperintense lesions in bifrontal and subcortical 
white matter of unknown etiology. Felt not be TIA/CVA
 
Past Medical History:
1. h/o SVT/?___ s/p ___ 
___ , ___ and ___. Per records s/p cath ___ showing  
mild plaque in one artery.  
2. Glucose intolerance, no dx of DM  
3. Broken wrist on the left, status post surgery.  
4. History of goiter. Had US done and technetium scan in ___  
showing inactive thyroid nodules. TSH 1.5 ___. h/o saddle PE treated at ___ in ___. full  
hypercoag panel negative  
6. PUD, GERD  
7. Obesity--wt 226 for last several months  
8. Depression  
9. Anxiety--Used hypnotism is the past which helped  
10. Bulemia  
11. DVT ___ in relation to left leg tendon injury  
12. ? Munchhausen's behavior per ___ hospitalist note ___  

 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM  
Son: AV nodal reentry  
Aunt: ___ CA at age ___  
 
Physical Exam:
PE 98.1 118/76 118 22 95%RA  
GEN - in NAD, speaking in full sentences without SOB.  
HEENT - NCAT, sclerae anicteric, MMM, OP clear, neck supple, no 
carotid bruits b/l  
CV - RRR, nl s1/s2, no m/r/g  
CHEST - pain non-reproducible on exam  
RESP - CTA b/l  
ABD - Soft, NT, ND, normoactive BS, no HSM  
EXT - no ___, WWP  
NEURO - AAO X 3, CN II - XII intact except slightly decreased 
shrug on L side, nl tone, ___ motor strength over RUE, 
otherwise ___ motor strength b/l, decreased sensation to light 
touch over L hand otherwise grossly intact to light touch b/l, 
2+ DTRs b/l, slight dysmmetria with finger to nose with L hand, 
gait wnl.  

 
Pertinent Results:
___ 03:35PM   GLUCOSE-116* UREA N-9 CREAT-1.1 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-22 ANION GAP-18
___ 03:35PM   CK(CPK)-118
___ 03:35PM   cTropnT-<0.01
___ 03:35PM   CK-MB-2
___ 03:35PM   WBC-10.4# RBC-4.23 HGB-13.2 HCT-37.7 MCV-89 
MCH-31.2 MCHC-35.0 RDW-13.8
___ 03:35PM   NEUTS-85.2* LYMPHS-11.4* MONOS-3.0 EOS-0.2 
BASOS-0.1
___ 03:35PM   PLT COUNT-449*#
___ 03:35PM   ___ PTT-30.4 ___
 
Brief Hospital Course:
#) Chest Pain - Atypical chest pain not relieved with SL NTG, 
nearly constant except when recieves dilaudid. Not reproducible 
on exam. She was ruled out by 3 sets of negative cardiac 
enzymes. EKG with very slight ST depressions in setting of sinus 
tachycardia that resolved with control of heart rate. Atrial 
tachycardia that has been documented before was seen on 
telemetry, but no concerning rhythms were seen. Her outpatient 
electrophysiologist was contacted who agreed that no further 
cardiac workup needed to be done. Her beta bblocker was 
continued. Her chest pain was treated with Toradol, and she was 
advised to continue ibuprofen as an outpatient.

#) L arm numbness and weakness - Neurologic exam is inconsistent 
with localizing peripheral or central lesion. Had thorough w/u 
by neurology 1 month ago for similar complaint that revealed 1-2 
mm FLAIR hyperintense lesions in the bifrontal and subcortical 
white matter that was of unclear significance but not thought to 
be ischemic. Possibly inflammatory vs. autoimmune changes. Given 
h/o head trauma this am, a head CT was done that was 
unremarkable. As her complaints spontaneously resolved, no 
further workup was done. Aspirin was continued.

#) h/o DVTs/PE - continued coumadin

#) Hypothyroidism - Continued synthroid.  

#) Psych - With h/o depression, anxiety, and possibly 
Munchausen's based off of OMR notes from prior admissions. As 
the patient was amenable to being discharged after the above 
workup, no further action was taken.

 
Medications on Admission:
Coumadin 17 mg daily  
Aspirin 325 mg daily  
Levothyroxine 50 mcg daily  
Metoprolol 75 mg tid  
Lovenox ___ mg q12h  
Prilosec 20 mg daily  
Fish oil 1000 mg tid  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: atypical chest pain
Secondary: supraventricular tachycardia, GERD, obesity, 
depression

 
Discharge Condition:
good, stable, chest pain improved

 
Discharge Instructions:
You were evaluated for chest pain. You ruled out for a heart 
attack by three sets of negative cardiac enzymes. You did not 
have any concerning arrhythmias on telemetry or EKG, and your 
outpatient cardiologist was contacted who agreed no further 
workup was necessary. Your pain was treated with Toradol, and 
you may continue to take ibuprofen as an outpatient for your 
pain.

If you have intractable chest pain, episodes of fainting, 
shortness of breath, or any other concerning symptoms, call your 
doctor.
 
Followup Instructions:
___